US07074819B2
Step 10) Synthesis of (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-{9-[2-(2-methoxyethoxy)ethylthio]nonyl}thiochroman
To a solution of 7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methyl-4-{9-[2-(2-methoxyethoxy)ethylthio]nonyl}thiochroman (68 mg, 0.109 mmol) in isopropanol (5.5 ml) and tetrahydrofuran (0.9 ml) was added 5N-HCl (1.47 ml) at room temperature, which was stirred for 2 days. Water was added thereto, and the resulting solution was extracted with ethyl acetate. Then, the organic layer was washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to flash chromatography on silica gel (n-hexane:ethyl acetate=1:1) to give the title compound (43 mg, yield 74%) as a white solid.

reactant | 7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methyl-4-{9-[2-(2-methoxyethoxy)ethylthio]nonyl}thiochroman | 0.109 mmol, 68 mg | COCOC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)OCOC)CCCCCCCCCSCCOCCOC | C34H52O6S2
reactant | HCl | 1.47 ml | Cl | ClH
reactant | Water | O | H2O
solvent | isopropanol | 5.5 ml | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 0.9 ml | O1CCCC1 | C4H8O
product | (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-{9-[2-(2-methoxyethoxy)ethylthio]nonyl}thiochroman | 43 mg, yield 74% | OC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)O)CCCCCCCCCSCCOCCOC | C30H44O4S2
